US07179804B2
3-Oxo-3-pyrimidin-5-yl-propionic acid methyl ester
Add a 25 wt % solution of sodium methoxide in methanol (4.5 mL, 19.8 mmol) to toluene (40 mL) and heat to 85° C. under N2. Dissolve pyrimidine-5-carboxylic acid ethyl ester (2.0 g, 13.2 mmol) in EtOAc (2.1 mL) and add dropwise to the toluene solution. Heat the reaction mixture for 1 h, then add a suspension of sodium methoxide (715 mg, 13.2 mmol) in EtOAc (15 mL) dropwise. Heat the reaction mixture at 85° C. overnight, then cool to RT and pour into a solution of glacial acetic acid (12 mL) and water. (50 mL). After stirring for 1 h at RT, extract with EtOAc (3×100 mL). Wash the organic phase with brine (200 mL), dry over sodium sulfate, filter, and concentrate under reduced pressure to give the title compound as a mixture of tautomers: 1H NMR (300 MHz, CDCl3) enol form δ 12.43 (s, 1H), 9.26 (s, 1H), 9.10 (s, 2H), 5.76 (s, 1H), 3.86 (s, 3H); keto form δ 9.42 (s, 1H), 9.30 (s, 2H), 4.06 (s, 3H), 3.74 (s, 2H).

reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 19.8 mmol, 4.5 mL | CO | CH4O
reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
reactant | pyrimidine-5-carboxylic acid ethyl ester | 13.2 mmol, 2.0 g | C(C)OC(=O)C=1C=NC=NC1 | C7H8N2O2
reactant | sodium methoxide | 13.2 mmol, 715 mg | C[O-].[Na+]
solvent | EtOAc | 2.1 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
product | 3-Oxo-3-pyrimidin-5-yl-propionic acid methyl ester | COC(CC(C=1C=NC=NC1)=O)=O | C8H8N2O3
